US08138186B2
A mixture of 3-(2-(2-bromoethoxy)ethoxy)-1-(3,4-dichlorophenyl)-1H-pyrazole (0.17 mg, 0.45 mmol), piperidine (62 mg, 0.72 mmol), potassium carbonate (0.25 g, 1.8 mmol) and sodium iodide (67 mg, 0.45 mmol) in dimethylformamide (5 ml) was stirred at 100° C. overnight in a dry nitrogen atmosphere. The solvent was evaporated in vacuo and water and ethyl ether was added. The aqueous phase was extracted several times with organic solvent and the combined organic phases washed with water, dried over sodium sulphate, filtered and evaporated to dryness in vacuo. The crude dark oil obtained, 138 mg, was purified by column chromatography on silica gel (eluent: ethyl acetate/petroleum ether 2:8 to 10:0 and ethyl acetate/CH3OH 9:1) yielding 118 mg of 1-(2-(2-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)ethoxy)ethyl)piperidine as an oil

reactant | 3-(2-(2-bromoethoxy)ethoxy)-1-(3,4-dichlorophenyl)-1H-pyrazole | 0.45 mmol, 0.17 mg | BrCCOCCOC1=NN(C=C1)C1=CC(=C(C=C1)Cl)Cl | C13H13BrCl2N2O2
reactant | piperidine | 0.72 mmol, 62 mg | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 1.8 mmol, 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.45 mmol, 67 mg | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2-(2-(1-(3,4-dichlorophenyl)-1H-pyrazol-3-yloxy)ethoxy)ethyl)piperidine | 118 mg | ClC=1C=C(C=CC1Cl)N1N=C(C=C1)OCCOCCN1CCCCC1 | C18H23Cl2N3O2
